US08664257B2
Step 1: 5-Cyclopropylmethoxy-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid methyl ester
150 mg (0.635 mmol) of methyl 1-(2-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylate were dissolved in 8 ml of THF. 207 mg (0.635 mmol) of cesium carbonate and 400 mg (2.96 mmol) of bromomethyl-cyclopropane were added and the mixture was heated to 50° C. for 6 h. Then the mixture was filtrated and the solvent removed in vacuo. The crude title compound was used in the next step without further purification.

reactant | methyl 1-(2-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylate | 0.635 mmol, 150 mg | FC1=C(C=CC=C1)N1N=C(C=C1O)C(=O)OC | C11H9FN2O3
reactant | cesium carbonate | 0.635 mmol, 207 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromomethyl-cyclopropane | 2.96 mmol, 400 mg | BrCC1CC1 | C4H7Br
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 5-Cyclopropylmethoxy-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C(=C1)OCC1CC1)C1=C(C=CC=C1)F | C15H15FN2O3
